US08609794B2
In 70 mL of acetone combine 4.08 g (10.48 mmol) of 2-(3-bromopropoxy)-5-chloro-1-iodo-3-methylbenzene, 2.67 g (10.49 mmol) of 2-iodo-4-chlorophenol (Prepared in a manner similar to Preparation 7) and 3.06 g (22.14 mmol) of potassium carbonate. Reflux overnight, filter, cool and concentrate to give an off white solid, which is crystallized using acetonitrile to yield 5.18 g (88%) of 5-chloro-2-(3-(4-chloro-2-iodophenoxy)propoxy)-1-iodo-3-methylbenzene as a white powder. 1H NMR (400 MHz, CDCl3) δ 7.74 (d, J=2.5 Hz, 1H), 7.58 (d, J=2.4 Hz, 1H), 7.31-7.23 (m, 1H), 7.16-7.10 (m, 1H), 6.76 (d, J=8.8 Hz, 1H), 4.28 (t, J=5.8 Hz, 2H), 4.09 (t, J=6.0 Hz, 2H), 2.36 (p, J=5.9 Hz, 2H), 2.26 (s, 3H). 13C NMR (101 MHz, CDCl3) δ 156.17, 155.57, 138.56, 136.17, 133.37, 131.34, 129.89, 129.24, 126.36, 112.21, 92.21, 86.64, 68.85, 65.57, 29.85, 17.02. GCMS (m/e): 562 (M+).

reactant | 2-(3-bromopropoxy)-5-chloro-1-iodo-3-methylbenzene | 10.48 mmol, 4.08 g | BrCCCOC1=C(C=C(C=C1C)Cl)I | C10H11BrClIO
reactant | 2-iodo-4-chlorophenol | 10.49 mmol, 2.67 g | IC1=C(C=CC(=C1)Cl)O | C6H4ClIO
reactant | potassium carbonate | 22.14 mmol, 3.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 70 mL | CC(=O)C | C3H6O
product | 5-chloro-2-(3-(4-chloro-2-iodophenoxy)propoxy)-1-iodo-3-methylbenzene | 5.18 g, 88% | ClC=1C=C(C(=C(C1)I)OCCCOC1=C(C=C(C=C1)Cl)I)C | C16H14Cl2I2O2
